Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol
 
Attending: ___.
 
Chief Complaint:
left periprosthetic femur fracture
 
Major Surgical or Invasive Procedure:
left proximal femur open reduction internal fixation

 
History of Present Illness:
Ms. ___ is a ___ year-old female with a history of a L THA 
with subsequent revision x 2 that presents with a left 
periprosthetic femur fracture s/p mechanical fall. She sustained 
an unwitnessed fall yesterday at around midnight and her 
daughter found her immediately afterwards, awake. NO LOC, 
unknown
headstrike. She presented to an OSH (CT head negative) and 
presents for further management. She requires O2 at home at 
night (1LNC) and during naps. She has recently started using a 
walker (3 weeks ago) and prior had used a cane for many years. 
She ambulates independently in and around the house.

 
Past Medical History:
PMHx:
COPD on home ___
Yypothyroidism
HTN
?CAD vs structural heart disease, follows with cardiologist Dr.
___ (___)

Past Surgical Hx:
Discectomy (___)
L THA ___, ___
L THA ___, ___
L THA revision ___, Dr. ___             
Cataract surgery (___)
 
Social History:
___
Family History:
No family hx of COPD
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=============================
 
Temp: 98.4 HR: 76 BP: 149/55 Resp: 20 O(2)Sat: 93
 
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic
Oropharynx within normal limits
Chest: L sided inspiratory crackles, good air movement
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender, Nondistended
Extr/Back: Swelling over L thigh with shortening of LLE,
distal dps 2+
Skin: Warm and dry, No rash
Neuro: Speech fluent
Psych: Normal mood
 

DISCHARGE PHYSICAL EXAM:
========================
VS: 97.9 PO 145 / 72 88 18 94 1l; weight 46.8kg yesterday 47.0kg 

GENERAL: Elderly female in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM, good dentition   
HEART: Irreg rate with ___ systolic murmur heard best at RUSB, 
no
JVP
LUNGS: lungs with scant crackles bilaterally; no wheezes, rales,
rhonchi  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: 1+ edema, moving all 4
extremities with purpose  
PULSES: 2+ DP pulses bilaterally, 2+ carotid pulses bilaterally,
2+ radial pulses    
NEURO: AAOX1 (oriented to person only). Good strength in all 
four
extremities. 

 
Pertinent Results:
ADMISSION LABS:
================
___ 09:45AM BLOOD WBC-19.4* RBC-3.02* Hgb-9.8* Hct-30.7* 
MCV-102* MCH-32.5* MCHC-31.9* RDW-13.1 RDWSD-48.2* Plt ___
___ 09:45AM BLOOD Glucose-122* UreaN-18 Creat-0.7 Na-142 
K-4.4 Cl-100 HCO3-29 AnGap-13
___ 12:58PM BLOOD Calcium-7.6* Phos-4.1 Mg-1.7
___ 03:52PM BLOOD ___ pO2-42* pCO2-53* pH-7.38 
calTCO2-33* Base XS-4
___ 03:52PM BLOOD Glucose-95 Lactate-1.2 Na-138 K-4.3 
Cl-102'

DISCHARGE LABS:
===============
144  96  21  114   AGap=16 
 
4.9  32  0.5  

CBC 8.1>11.5/38.0<135

MICRO:
======
___ 9:56 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------     2 S

IMAGING/STUDIES:
===================
___: CHEST (PORTABLE AP)
  
In comparison with the study of ___, the right IJ catheter 
is been 
removed.  The cardiomediastinal silhouette is unchanged, as is 
the left 
pleural effusion with compressive atelectasis at the base.  
Minimal changes of 
are seen at the right base.  Minimal if any pulmonary vascular 
congestion. 

___ CTA Chest 
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Age indeterminate compression fracture of the T7 vertebral 
body with more than ___ loss of body height.  Given the degree 
of sclerosis of the vertebral body, this is likely chronic. 
3. Right pulmonary artery is enlarged measuring 2.8 cm across 
maximal diameter which could be secondary to pulmonary 
hypertension. 

___ CXR: Left effusion.  Increased interstitial markings, 
similar to previous cardiomegaly. 

___ Imaging FEMUR (AP & LAT) LEFT 
  
Intraoperative images were obtained during Left femur ORIF.  
Please refer to 
the operative note for details of the procedure. 

 
Brief Hospital Course:
___ with afib, moderate-severe AS, pHTN (RVSP 65), possible 
recent COPD diagnosis on 1L NC QHS admitted after fall with hip 
fracture s/p ORIF ___, transferred from Orthopedics service 
with tachypnea and mild hypoxemia likely ___ pulmonary edema and 
pleural effusions. 

# Dyspnea, hypoxemia
# Heart failure with uncertain EF
Patient presented to MICU from ortho service due to shortness of 
breath. Volume overload with pulmonary edema and bl effusions 
(possibly more chronic) in the setting of known AS, HTN, afib 
and receiving post-op mIVF. Responded to 20 IV Lasix boluses, 
then later 20 PO boluses. CTA negative for PE. She clinically 
does not have COPD (lifelong non-smoker, no PFTs, no 
radiographic evidence) and no PFTs were completed to the patient 
and her daughter’s knowledge but patient/family said was given 
that diagnosis. Pt with tenuous volume status and will be sent 
to rehab with 20 mg PO furosemide PRN.

# Aortic Stenosis
#HTN
Slowly resumed home afterload reducing agents given narrow fluid 
window. Per ___ team, patient's amlodipine was being held prior 
to her admission, so they did not think she needed to continue 
this medication. However, her blood pressure was controlled 5mg 
PO lisinopril and 5mg PO amlodipine.

# Afib: 
The patient was on metoprolol succinate 25 mg PO daily at home 
and this was increased to 37.5mg daily due to poor rate control. 
Uptitration was conservative given her aortic stenosis and 
preload dependence. She was not on anticoagulation at home.

# Nutrition:
Failed bedside SLP evaluation. She is on a dysphagia diet, and 
the risk of aspirating in the setting of her code status change 
to DNR/DNI was explained to family. Pt was at times 
hypernatremic, thought to be due to decreased PO intake.

# Delirium: 
Mild dementia at baseline, hospital-associated delirium. 
Geriatrics followed and thought that the patient became closer 
to baseline upon discharge so we gave trazaone 25mg qhs and 
avoided benzodiazepines. 

# s/p ORIF: Patient presented after an unwitnessed fall. She was 
found to have a left periprosthetic femur fracture and was 
admitted to the orthopedic surgery service on ___. On ___, the 
patient was taken to the operating room for left proximal femur 
open reduction internal fixation, which the patient tolerated 
well. She did not complain of pain post procedure and had good 
control with lidocaine patch, oxycodone, and standing Tylenol. 
She was discharged with WBAT. She was on DVT ppx with lovenox 30 
sc daily. ___ consulted and recommended discharge to rehab. She 
will follow up with Dr. ___ in orthopedics in 2 weeks.

# Macrocytic anemia
Unknown baseline, stable over admission. On ___, one day after 
her surgery, she had a decrease in her H/H likely contribution 
from surgery. Ferritin was high so likely ACD as Vit B12 and 
folate WNL. 

# Enterococcus urine cx
Asymptomatic and no WBC on ua so did not treating. 

# Code: DNR/DNI confirmed with her daughter/HCP. 

ORTHO COURSE:
===============
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a left periprosthetic femur fracture and was admitted to 
the orthopedic surgery service on ___. A Geriatric consult was 
obtained and recommendations were provided for guidance in 
managing agitation/delirium. On ___, the patient was taken to 
the operating room for left proximal femur open reduction 
internal fixation, which the patient tolerated well. For full 
details of the procedure please see the separately dictated 
operative report. Of note, the patient was given 2 units of 
pRBCs in the OR. The patient was taken from the OR to the PACU 
in stable condition. She was extubated successfully in the PACU, 
and after satisfactory recovery from anesthesia she was 
transferred to the floor. The patient was given ___ 
antibiotics and anticoagulation per routine. On POD1, CBC 
revealed a decreased H/H. BMP revealed an elevation in 
Creatinine, and the patient was noted to have poor UOP during 
the morning. Her blood pressures dropped to the ___ and she 
was evaluated urgently by the team. Other vital signs were 
stable, and she was able to relay to the team that she felt 
okay, with assistance from her daughter at the bedside. Stat 
CBC, BMP, EKG, and a 250cc fluid bolus were ordered. EKG did not 
vary from baseline on ___, and repeat H/H was improved. Repeat 
BMP revealed further increase in Creatinine, and the patient's 
IVFs were increased. 

MICU COURSE ___
============================
Patient started complaining of SOB ___ around 8 ___. It was an 
acute change, no breathing difficulties earlier in admission. 
SOB has remained constant since that time. She has carried a 
diagnosis of COPD since early this year, but family denies pt 
ever having PFTs done and she is a never smoker. Uses ___ home 
O2 intermittently at night. On arrival to the MICU, she was 
intermittently complaining of SOB. She had a CTA done given 
immobilization and procedure, and ruled out for PE. she was 
started to be diuresed with improvement, received IV Lasix 20x2 
with urine output. Bedside ultrasound showed simple effusions, 
but to minimize procedures and small pockets, diuresis was 
pursued. Pain management done with Tylenol and oxycodone as 
needed. Quetiapine used for intermittent delirium. For atrial 
fibrillation, higher dose of metoprolol XL 37.5 instead of 25 
for better heart rate control, home antihypertensives resumed to 
help with afterload given known aortic stenosis and pulmonary 
hypertension. 

TRANSITIONAL ISSUES: 
====================
[ ] Please weight patient daily and follow up volume status. If 
pt gains >3 lbs in 24 hours or >5 pounds in 48 hours - or if 
patient has signs of volume overload on exam please give Lasix 
PO 20 mg. 
[ ] Please encourage PO intake
[ ] Please check BMP every 3 days. If sodium >145 consider 
giving 1L D5W with 20 IV Lasix.
[ ] Please follow up rate control for atrial fibrillation and 
consider further uptitration of metoprolol if indicated
[ ] Code status changed from full to DNR/DNI
[ ] follow up with Ortho Surgery s/p hip fracture in 2 weeks
#Name of health care proxy: ___ number: 
___ Cell phone: ___ 
#CODE: DNR/DNI

MEDICATION CHANGES:
===================
-Metoprolol succinate changed from 25mg to 37.5mg 
-Lasix changed to 20 mg PO daily PRN for weight gain of 3 or 
more pounds in 24 hours or 5 pounds in 2 days.
-Discontinued lorazepam, cyclobenzaprine, amitriptyline in 
setting of fall and delirium risk
-Discontinued pantoprazole
-Added trazodone 25 mg QHS for sleep
-Added Lovenox 30 mg SC daily through ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 20 mg PO QHS 
2. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 
3. LORazepam 0.5-1 mg PO QHS:PRN insomnia 
4. Pantoprazole 40 mg PO Q24H 
5. Cyclobenzaprine 2.5 mg PO HS 
6. FLUoxetine 20 mg PO DAILY 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Lisinopril 5 mg PO DAILY 
9. Levothyroxine Sodium 50 mcg PO DAILY 
10. amLODIPine 5 mg PO DAILY 
11. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
12. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
 

1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
3.  Enoxaparin Sodium 30 mg SC DAILY Duration: 17 Days 
total ___.  Lidocaine 5% Patch 1 PTCH TD QAM L hip / flank  
5.  Lidocaine 5% Patch 1 PTCH TD QAM T7 compression fracture  
6.  Polyethylene Glycol 17 g PO DAILY  
7.  Senna 8.6 mg PO BID  
8.  Simethicone 40-80 mg PO QID:PRN gas  
9.  TraZODone 25 mg PO QHS  
10.  Metoprolol Succinate XL 37.5 mg PO DAILY  
11.  amLODIPine 5 mg PO DAILY  
12.  Aspirin 81 mg PO DAILY  
13.  FLUoxetine 20 mg PO DAILY  
14.  Levothyroxine Sodium 50 mcg PO DAILY  
15.  Lisinopril 5 mg PO DAILY  
16.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  
17.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: left periprosthetic femur fracture

Secondary: Aortic Stenosis, Chronic Obstructive Pulmonary 
Disease, Atrial fibrillation

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted because you broke your hip.

WHY WAS I HERE?
- You were in the hospital for orthopedic surgery because you 
broke your hip
- You developed shortness of breath due to increased fluid in 
your lungs 

WHAT WAS DONE WHILE I WAS HERE?
-You had surgery to repair your broken hip
-You were giving a water pill to remove fluid from your lungs 
-The speech and swallow clinicians saw you and determined that 
you may choke if you eat regular food

WHAT SHOULD I DO NOW?
- Resume your regular activities  as tolerated, but do not stand 
or support weight on your hip unless you are able to tolerate 
it. The official recommendation is "touch down weight-bearing of 
the left lower extremity."
- Follow up with your primary doctor and with Orthopedics.
WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Please remain in your dressing and do not change unless it is 
visibly soaked or falling off.
- Splint must be left on until follow up appointment unless 
otherwise instructed
- Do NOT get splint wet

We wish you the best!
-Your ___ Care Team

 
Followup Instructions:
___